* NGSPICE file created from D14_topcell.ext - technology: gf180mcuD

* Black-box entry subcircuit for current_mirror abstract view
.subckt current_mirror avss avdd
.ends

* Black-box entry subcircuit for layer_input abstract view
.subckt layer_input Iext1 Iext2 Iext3 Iext4 nvout_1 nvout_2 nvout_3 nvout_4 vdd vout_1
+ vout_2 vout_3 vout_4 vss
.ends

* Black-box entry subcircuit for layer_output abstract view
.subckt layer_output Iext1 Iext2 nvout_1 nvout_2 vdd vout_1 vout_2 vss
.ends

* Black-box entry subcircuit for encoder abstract view
.subckt encoder vss vdd Vin Vin_neg Iex_1_i Iex_2_i Iex_3_i Iex_4_i
.ends

* Black-box entry subcircuit for stdp_4x2 abstract view
.subckt stdp_4x2 A B avdd avss ifwd1 ifwd2 nvpost1 nvpost2 nvpre1 nvpre2 nvpre3 nvpre4
+ vpost1 vpost2 vpre1 vpre2 vpre3 vpre4 vw11 vw42
.ends

.subckt D14_topcell Vin Vin_neg avdd avss vw11 vw42
Xu_current_mirror avss avdd current_mirror
Xu_layer_input u_encoder/Iex_1_i u_encoder/Iex_2_i u_encoder/Iex_3_i u_encoder/Iex_4_i
+ u_stdp_4x2/nvpre1 u_stdp_4x2/nvpre2 u_stdp_4x2/nvpre3 u_stdp_4x2/nvpre4 avdd u_stdp_4x2/vpre1
+ u_stdp_4x2/vpre2 u_stdp_4x2/vpre3 u_stdp_4x2/vpre4 avss layer_input
Xu_layer_output u_stdp_4x2/ifwd1 u_stdp_4x2/ifwd2 u_stdp_4x2/nvpost1 u_stdp_4x2/nvpost2
+ u_layer_output/vdd u_stdp_4x2/vpost1 u_stdp_4x2/vpost2 u_layer_output/vss layer_output
Xu_encoder avss avdd Vin Vin_neg u_encoder/Iex_1_i u_encoder/Iex_2_i u_encoder/Iex_3_i
+ u_encoder/Iex_4_i encoder
Xu_stdp_4x2 u_stdp_4x2/A u_stdp_4x2/B avdd avss u_stdp_4x2/ifwd1 u_stdp_4x2/ifwd2
+ u_stdp_4x2/nvpost1 u_stdp_4x2/nvpost2 u_stdp_4x2/nvpre1 u_stdp_4x2/nvpre2 u_stdp_4x2/nvpre3
+ u_stdp_4x2/nvpre4 u_stdp_4x2/vpost1 u_stdp_4x2/vpost2 u_stdp_4x2/vpre1 u_stdp_4x2/vpre2
+ u_stdp_4x2/vpre3 u_stdp_4x2/vpre4 vw11 vw42 stdp_4x2
.ends

